US07842696B2
A mixture of 5 mL sodium hypochlorite and 4-benzenesulfinyl-benzoic acid (0.14 gm, 0.57 mmol) in DMF (5 mL) was stirred at room temperature overnight. A further 5 mL of sodium hypochlorite was then added and the mixture stirred at room temperature overnight. After acidification using 10% HCl, the resulting solid was filtered to afford 105 mg (70% yield) of 4-benzenesulfonyl-benzoic acid.

reactant | sodium hypochlorite | 5 mL | Cl[O-].[Na+]
reactant | 4-benzenesulfinyl-benzoic acid | 0.57 mmol, 0.14 gm | C1(=CC=CC=C1)S(=O)C1=CC=C(C(=O)O)C=C1 | C13H10O3S
reactant | sodium hypochlorite | 5 mL | Cl[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-benzenesulfonyl-benzoic acid | 105 mg, 70% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C13H10O4S
